* source P1
Q_Q1         N00260 N00241 N00237 QBC846B 
Q_Q2         N00452 N00260 N12934 QBC846B 
C_C1         N00196 N00241  4.7u  TC=0,0 
V_V1         N00196 0  AC 5m
+SIN 0 5m 1k 0 0 0
R_R11         N001741 N00196  47k TC=0,0 
R_R3         0 N00237  1k TC=0,0 
R_R21         N00260 N03355  100k TC=0,0 
R_R4         VCC N00452 15k
R_R5         N00464 0 1k
R_R61         N00241 N004221 330k
C_C22         N00452 N00617  4.7u  TC=0,0 
C_C31         N00617 N00695  4.7u  TC=0,0 
C_C41         0 N00464  4.7u  TC=0,0 
R_R91         N00237 N06774  47k TC=0,0 
R_R101         N01125 N06665  510k TC=0,0 
C_C5         N00237 N01125  1n  TC=0,0 
C_C61         N01125 N00617  2.2n  TC=0,0 
V_V2         VCC 0 18Vdc
R_R22         N03355 VCC  100k TC=0,0 
C_C7         0 N03355  4.7u  TC=0,0 
C_C42         0 N00464  4.7u  TC=0,0 
R_R12         N060131 N001741  9.1k TC=0,0 
R_R13         0 N060131  3.9k TC=0,0 
R_R102         N00617 N06665  220k TC=0,0 
R_R92         N01125 N06774  15k TC=0,0 
R_R62         N07007 N004221  15k TC=0,0 
R_R63         N00464 N07007  15k TC=0,0 
X_P1         0 0 N00695 POT PARAMS: SET=0.25 VALUE=100k
R_R111         N12934 N00464 1
C_C62         N01125 N00617  2.2n  TC=0,0 
C_C43         0 N00464  4.7u  TC=0,0 
C_C44         0 N00464  4.7u  TC=0,0 
